US05412117
To a mixture of 1.5 g of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one, 0.6 g of methyl isothio-cyanate, and 15 ml of dried N,N-dimethylformamide was added 0.93 g of potassium t-butoxide with stirring under ice-cooling, followed by stirring for 4 hours under ice-cooling. Ice-water was added to the reaction mixture, and the mixture was made acidic with acetic acid and then extracted with diethyl ether. The ether layer was washed with water and dried over sodium sulfate. The ether layer was removed by distillation, and the residue was recrystallized from ethanol to yield 1.4 g of N-methyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one | 1.5 g | C(#N)C=1C=CC2=C(CC(C(O2)(C)C)=O)C1 | C12H11NO2
reactant | methyl isothio-cyanate | 0.6 g | CN=C=S | C2H3NS
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | potassium t-butoxide | 0.93 g | CC(C)([O-])C.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-methyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 1.4 g | CNC(=S)C1=C(C(OC2=C1C=C(C=C2)C#N)(C)C)O | C14H14N2O2S
